US03992351
By following the above procedure, and substituting for 7,15-diazadispiro[5,1,5,3]hexadecane14,16-dione an equivalent amount of 2,2,6,6-tetramethyl-3,5-diketopiperazine, there is obtained 2,2,6,6-tetramethylpiperazine.

reactant | 7,15-diazadispiro[5,1,5,3]hexadecane14,16-dione | C1CCCCC12NC1(CCCCC1)C(NC2=O)=O | C14H22N2O2
reactant | 2,2,6,6-tetramethyl-3,5-diketopiperazine | CC1(NC(C(NC1=O)=O)(C)C)C | C8H14N2O2
product | 2,2,6,6-tetramethylpiperazine | CC1(NC(CNC1)(C)C)C | C8H18N2
